US03992394
6-Amino-2,2-Dimethyl-3-Cyanopenam
Triethylamine (666 mg., 6.6 mmoles) is added to a suspension of 6-amino-2,2-dimethyl-3-cyanopenam hydrochloride (1.3 g., 6.0 mmoles) in methylene chloride (100 ml.) and the mixture stirred at room temperature for 20 minutes.

reactant | Triethylamine | 6.6 mmoles, 666 mg | C(C)N(CC)CC | C6H15N
reactant | 6-amino-2,2-dimethyl-3-cyanopenam hydrochloride | 6.0 mmoles, 1.3 g | Cl.NC1[C@@H]2N(C(C(S2)(C)C)C#N)C1=O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 6-Amino-2,2-Dimethyl-3-Cyanopenam | NC1[C@@H]2N(C(C(S2)(C)C)C#N)C1=O | C8H11N3OS
